* This is not a model from LTC. 
* It's only a experimental model written by Helmut Sennewald
* 
.subckt lt1185 GND+ FB VIN- VOUT- REF
D1 N007 VIN- D
R1 GND+ refsy 100k
R2 GND+ vref 1e6
B1 GND+ vref V=Limit((2.37+(V(GND+,VIN-)-10)*1e-5),V(GND+,refsy),0)
Q1 cref N003 REF 0 PNP
B2 GND+ N003 V=Limit((V(GND+,VIN-)-1),(100*V(REF,vref)), V(vref))
R5 cref VIN- 355
R6 GND+ REF 1e9
Q2 VOUT- N006 sense 0 NPN3
Q3 N002 N005 N006 0 NPN2
Q4 N002 N004 N005 0 NPN1
R4 sense VIN- 0.055
R7 N006 sense 1k
R8 N005 N006 6k
Q5 vb N001 GND+ 0 PNP
R11 vb N006 30k
Q6 N001 N001 GND+ 0 PNP
B4 N001 VIN- I=V(GND+,vref)/2.37e3
B5 GND+ N002 I=V(GND+,vref)/600
B6 N011 VIN- V=Limit(V(GND+,VIN-), (2.5-1000*(V(sense,VIN-)-V(ilim,VIN-)*0.056)), 0)
D4 vb N008 D
B7 N012 VIN- V=LIMIT(V(GND+,VIN-), (2.5-1000*(V(sense,VIN-)-V(cref,VIN-))), 0)
D3 vb N009 D
C1 vb VIN- 1p
R15 N009 N012 100
R16 N008 N011 100
C5 VIN- N009 100n
C6 N008 VIN- 100n
B8 N013 VIN- V=LIMIT(V(GND+,VIN-), (2.5 -200*(V(GND+,FB)-V(GND+,vref))), 0)
D5 vb N010 D
R19 N010 N013 100
C8 VIN- N010 2µ
R3 GND+ FB 1e9
R9 FB VOUT- 1e9
D2 N002 GND+ D
B3 GND+ N002 I=Limit(0.12, (V(sense,VIN-)*0.6), 0)
D6 refsy N007 D
B9 ilim VIN- V= TABLE( V(VOUT-,VIN-), 0,3.6, 12,3.6, 15,3, 20,1.6, 25,0.8, 30,0.4, 35,0.1)
C4 VOUT- VIN- 100p
C7 N002 VIN- 10p
R10 vb N004 1
.MODEL PNP1 PNP (BF=40 VAF=40 Cjc=3p Cje=3p TF=2e-8)
.MODEL NPN1 NPN(BF=100 TF=1e-9 VAF=80 Cjc=3p Cje=3p)
.MODEL NPN2 NPN (BF=70 TF=1e-9 Rc=1 Re=0.1 VAF=80 Cjc=10pF Cje=10p))
.MODEL NPN3 NPN (BF=70 TF=1e-8 Rc=0.1 Re=0.01 VAF=80 Cjc=100pF Cje=100p))
.MODEL D D
.MODEL PNP PNP
.ends lt1185

